US05123951
Preparation of methyl 3-[(4-bromo-2-fluorophenyl)amino]-2-methoxy-3-oxopropanoate
To a stirred mixture of 2.78 grams (0.02 mole) of mono-methyl methoxymalonate prepared in Example LVI (Compound 214) and 3.56 grams (0.02 mole) of 4-bromo-2-fluoroaniline in approximately 100 milliliters of dry tetrahydrofuran was fed dropwise a solution of 3.87 grams (0.02 mole) of 1,3-dicyclohexylcarbodiimide in about 30 milliliters of dry tetrahydrofuran, while cooling the reaction mixture in an ice-water bath. The reaction mixture was allowed to warm slowly to room temperature and stirring continued for an approximate 65-hour period. The precipitated 1,3-dicyclohexylurea by-product (3.15 grams) was removed by filtration and the filtrate vacuum evaporated and the residue dissolved in methylene chloride. The latter solution was extracted with dilute HCl and then water, then dried (MgSO4) and solvent vacuum evaporated to give a colorless liquid. Flash column chromatography of the latter on silica, eluting with hexane-ethyl acetate (7:3) gave, after workup, a liquid which crystallized on standing. Recrystallization from hexane containing a small amount of ethyl acetate gave 2.3 grams (0.01 mole) of methyl 3-[(4-bromo-2-fluorophenyl)amino]-2-methoxy-3-oxopropanaote having a melting point of 51° C.-53° C.

reactant | mono-methyl methoxymalonate | 0.02 mole, 2.78 grams | COC(C(=O)OC)C(=O)[O-]
reactant | 4-bromo-2-fluoroaniline | 0.02 mole, 3.56 grams | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | 1,3-dicyclohexylcarbodiimide | 0.02 mole, 3.87 grams | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | approximately 100 milliliters | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | about 30 milliliters | O1CCCC1 | C4H8O
product | methyl 3-[(4-bromo-2-fluorophenyl)amino]-2-methoxy-3-oxopropanoate | BrC1=CC(=C(C=C1)NC(C(C(=O)OC)OC)=O)F | C11H11BrFNO4
